US07888374B2
4-amino-N-(3-aminobenzyl)-5-cyano-6-ethoxypyridine-2-carboxamide
In a 20 mL scintillation vial, 4-amino-5-cyano-6-ethoxy-pyridine-2-carboxylic acid (19 mg, 0.09 mmol) was dissolved in DMA (0.7 mL). Then TBTU (30 mg, 0.09 mmol) dissolved in DMA (0.7 mL) was added, followed by the addition of 3-aminobenzylamine (12 mg, 0.11 mmol, 1.2 eq.) in DMA (0.6 mL). Then TEA (9.37 mg, 0.09 mmol) dissolved in DMA (0.7 mL) was added. The reaction mixture was shaken at room temperature for 24 hours. The crude mixture was purified using reverse phase HPLC (TFA). 1H NMR (500 MHz, DMSO-D6/D2O) δ ppm 1.27-1.39 (m, 3H) 4.18-4.75 (m, 4H) 6.31-7.50 (m, 5H). MS (ESI) positive ion 312 (M+H)+

reactant | 4-amino-5-cyano-6-ethoxy-pyridine-2-carboxylic acid | 0.09 mmol, 19 mg | NC1=CC(=NC(=C1C#N)OCC)C(=O)O | C9H9N3O3
reactant | TBTU | 0.09 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-aminobenzylamine | 0.11 mmol, 12 mg, 1.2 eq. | NC=1C=C(CN)C=CC1 | C7H10N2
solvent | DMA | 0.7 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.7 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.6 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.7 mL | CC(=O)N(C)C | C4H9NO
product | 4-amino-N-(3-aminobenzyl)-5-cyano-6-ethoxypyridine-2-carboxamide | NC1=CC(=NC(=C1C#N)OCC)C(=O)NCC1=CC(=CC=C1)N | C16H17N5O2
